US05011825
(h) H-Arg-Pro-Cys(StBu)-Arg-Phe-OtBu triacetate
3.32 ml of diethylamine are added to a solution of 3.3 g of Fmoc-Arg-Pro-Cys(StBu)-Arg-Phe-OtBu (crude substance) in 20 ml of dimethylformamide. After 10 minutes at room temperature, the mixture is concentrated in vacuo. The residue is triturated with ether and filtered off with suction.

reactant | diethylamine | 3.32 ml | C(C)NCC | C4H11N
reactant | Fmoc-Arg-Pro-Cys(StBu)-Arg-Phe-OtBu | 3.3 g | N([C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](CSSC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC(C)(C)C)CCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C52H73N11O8S2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | H-Arg-Pro-Cys(StBu)-Arg-Phe-OtBu triacetate | N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](CSSC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC(C)(C)C)CCC1.CC(=O)O.CC(=O)O.CC(=O)O | InChI=1S/C37H63N11O6S2.3C2H4O2/c1-36(2,3)54-33(53)26(21-23-13-8-7-9-14-23)46-29(49)25(16-11-19-44-35(41)42)45-30(50)27(22-55-56-37(4,5)6)47-31(51)28-17-12-20-48(28)32(52)24(38)15-10-18-43-34(39)40;3*1-2(3)4/h7-9,13-14,24-28H,10-12,15-22,38H2,1-6H3,(H,45,50)(H,46,49)(H,47,51)(H4,39,40,43)(H4,41,42,44);3*1H3,(H,3,4)/t24-,25-,26-,27-,28-;;;/m0.../s1
